Name:  ___        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Cipro
 
Attending: ___.
 
Chief Complaint:
weakness/hypotension
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms ___ is a ___ year female with history of 
___ disease who presents with diffuse weakness, fatigue 
and dysarthria.  

Reports memory of this AM is a little hazy; had difficulty 
waking up, speach therapist came by for the first time to 
evaluate patient, noted her to be very lethargic and acutely 
increased stuttering/sluring of speach from already abnormal 
baseline, OT who regularly sees her came by soon after, 
concerned, took her BP and noted it to be 64/40, and so EMS was 
called.

Patient reports progressive fatigue over the past several months 
as well as worsened speach (decreased volume, increased 
stuttering/sluring of words). She has also had several recent 
admissions ___, ___) for labile BPs 
(either hypotensive to a similar degree, or hypertensive with 
SBPs in 200s) and fatigue/lethargy, similar to today. Somewhat 
recently was started on fludricortisone by someone (unsure if it 
was PCP or if it was started during a recent hospitalization) to 
help with her labile blood pressures. Unsure if she carries a 
diagnosis of adrenal insufficiency. 

Denies specific infectious symptoms; no fevers/chills, no URI 
symptoms, no h/a, no vision changes, no cough, no CP, no SOB, no 
abd pain, no N/V/D, no dysuria. Does report various intermittent 
joint pains over the past few weeks (her left shoulder, left 
elbow, right foot) of brief duration. Also notes "bruising" over 
hands/feet which is transitent - unable to describe this skin 
finding further. Has been taking good PO, reports conciously 
trying to stay hydrated as she has been told she was dehydrated 
on previous admissions. 

Still feels very weak despite IV fluids and improvement in her 
BP. Some slight low back pain, but denies chest pain, shortness 
of breath, abdominal pain, dysuria, fever, cough. 

EMS vitals: Pulse:  90   BP:  110/60   RR:  16   SpO2%:  95 RA. 
In the ED, initial VS were 97.6 93 104/55 20 99% RA. Received 1L 
NS and caradopa/levadopa. Cultues sent. CXR unremarkable. 
Patient had difficulty urinating, required straight cathing. 
Transfer VS were 93 166/95 18 98% RA. 

On arrival to the floor, patient reports feeling fatigued, but 
otherwise back to her baseline. Reports mental status has 
cleared, speach is back to her previous baseline.
  
 
Past Medical History:
- ___ diagnosed ___ yrs ago; presented with gait ataxia 
and right sided tremor
- h/o gout
- isolated seizure last ___, cause unknown
- HTN
- Recurrent UTIs and urinary retention
- Osteoarthritis s/p L knee replacement
- ? recent diagnosis of adrenal insufficiency 
- Seasonal allergy
- Anxiety
- s/p appendectomy at age ___ 
 
Social History:
___
Family History:
- several second cousins with ___
- "lots of cancer"
- no heart disease
 
Physical Exam:
ADMISSION EXAM: 
===========
VS - afebrile 175/94 98 20 100% RA 
unable to obtain orthostatics as pt unable to stand (not 
positive going from lying to sitting) 
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, midly injected sclera, pink 
conjunctiva, patent nares, dry MM, mild facial asymmetry 
CARDIAC: RRR, S1/S2, ___ SEM at RUSB
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: WWP  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact, ___ strenght in all four extremeties, 
diffuse resting tremor (in all extremeties and face), soft voice 
with intermittent stutering, ridgidity with passive movement    
SKIN: warm and well perfused, errythematous face, blotchy 
blanching errythema over arms/chest, ___ nails   

DISCHARGE EXAM: 
================
VS - 98.2 149/97 18 100% RA  
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, midly injected sclera, pink 
conjunctiva, patent nares, dry MM, mild facial asymmetry 
CARDIAC: RRR, S1/S2, ___ SEM at RUSB
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: WWP  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact, ___ strenght in all four extremeties, 
diffuse resting tremor (in all extremeties and face), soft voice 
with intermittent stutering, ridgidity with passive movement    
SKIN: warm and well perfused, errythematous face, blotchy 
blanching errythema over arms/chest, ___ nails 
 
Pertinent Results:
ADMISSION LABS: 
==========
___ 01:53PM   LACTATE-2.1*
___ 01:51PM   GLUCOSE-114* UREA N-25* CREAT-0.9 SODIUM-143 
POTASSIUM-4.0 CHLORIDE-104 TOTAL CO2-29 ANION GAP-14
___ 01:51PM   CK-MB-3 cTropnT-<0.01
___ 01:51PM   WBC-4.7# RBC-4.34 HGB-13.0 HCT-40.1 MCV-92 
MCH-30.0 MCHC-32.5 RDW-12.9
___ 01:51PM   NEUTS-56.4 ___ MONOS-8.4 EOS-10.1* 
BASOS-2.8*
___ 01:51PM   PLT COUNT-298
___ 01:51PM   ___ PTT-31.9 ___
___ 01:51PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 01:51PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG

IMAGING: 
======
CXR ___: Patient is rotated somewhat to the left.  There is 
minor left basilar atelectasis.  There is possible minimal 
vascular congestion.  No focal consolidation, pleural effusion, 
or evidence of pneumothorax is seen.  Cardiac and mediastinal 
silhouettes are unremarkable.

MICROBIOLOGY: 
==========
___ Urine Culture: <10,000 colonies
___ Blood Culture: NGTD, pending

DISCHARGE LABS: 
==============
___ 06:00AM BLOOD WBC-5.4 RBC-4.19* Hgb-12.4 Hct-38.6 
MCV-92 MCH-29.6 MCHC-32.1 RDW-12.5 Plt ___
___ 06:00AM BLOOD Glucose-82 UreaN-22* Creat-0.7 Na-143 
K-3.7 Cl-106 HCO3-31 AnGap-10
___ 06:00AM BLOOD TSH-1.5
___ 06:00AM BLOOD Cortsol-7.3
___ 08:44AM BLOOD Lactate-1.7
___ 06:00AM BLOOD CK-MB-2 cTropnT-0.01
 
Brief Hospital Course:
Ms ___ is a ___ year female with history of 
___ disease who presents with diffuse weakness, fatigue 
and dysarthria.

ACTIVE ISSUES: 
=========
# Weakness/Lethargy/Dysarthria/Hypotension: Suspect general 
trend of patient's symptoms over past months to weeks represents 
a progression of her PD (see below) with dysautonomia. Suspect 
symptoms yesterday AM could all be consistent with PD, though 
difficult to explain acute worsening/improvement. Could be 
medication related (patient uncertain if she ___ have missed a 
few meds that AM). Could represent underlying infection 
exacerbating PD symptoms, though infectious work up during this 
hospitalization was negative and patient had no localizing 
symptoms. Acute confusion/dysarthria concerning also for 
TIA/Stroke/Siezure, but event was witnessed, and no focal 
neurological deficits other than dysarthria was reported and no 
seizure like-activity was noted. Did not report CP, but ACS 
could cause hypotension (though presumably with other symptoms 
of heart failure); ACS rule out was negative. This diffuse 
weakness/fatigue could also represent another systemic process 
altogether (though this is highly unlikely in the setting of a 
pre-exisitng systemic disease which readily explains her 
symtpoms); hypothyroidism (TSH normal), adrenal insufficiency 
(AM cortisol normal), myopathy or myasthenia ___ (though 
acutally surprsingly strong on strenght testing). During 
hosptialization patient continued to endorse fatigue which she 
had been experiencing for past several weeks, but the symptoms 
which brought her into the hospital had resolved and did not 
recur. 
 
# ___: Diagnosed ___ yrs ago. Presented with gait ataxia 
and tremor, current decline has been complicated with 
dysautonomia. Could also be consistent with Multiple Systems 
Atrophy (MSA). Symptoms that suggest MSA: urinary issues, 
dysautonomia, Raynaud's (which I suspect ___ be this transient 
"bruising" of her hands she has been describing). Outpatient 
neurologist seems to also have suspicion for MSA (suggesting 
outpatient DATscan to add in differentiating the two). Overall, 
patient's current presentation seems most consistent with a 
gradual decline in her PD (or possibly MSA), worsened over past 
several months. Given this, patient would probably benefit most 
from close follow up with existing neurologist for evaluation of 
MSA vs PD as well as adjustment of medications. For this reason, 
inpatient neurology consult was deferred. Patient was was also 
evaluated by ___ who cleared patient for home ___ with current 
high level of services. Continued home amantidine, 
Carbidopa-Levodopa, Tasmar and rasagiline. Left message with Dr 
___ at ___ (outpatient neurologist) requesting an earlier 
appointment date for patient (currently scheduled for ___, 
unable to schedule any sooner or reach the doctor).   

CHRONIC ISSUES: 
===========
# Urinary Retention: normally doesn't straight cath. presumably 
___ PD. Follows with outside urologist. Suspect urinary 
retention in ED was from missing AM bladder meds. No further 
issues during this hosptialization. Continued home bethanechol 
and tamsulosin. Of note, tamsulosin ___ contribute to episodes 
of hypotension; would recommend reevaluation with outpatient 
urologist. Continued home nitrofurantoin for prophylaxis of 
chronic UTIs in setting of urinary retention.

# h/o isolated seizure: unclear etiology, unknown work up 
(preformed at OSH). Continued home keppra. 

# OA: continued home celebrex.
 
# Seasonal Allergies: continued home loratadine and fluticasone 
nasal spray. 

# Anxiety: continued home clonazepam. Held home venlafaxine and 
sertraline given risk of seratonin syndrome with rasagiline. 
  
TRANSITIONAL ISSUES: 
====================
- blood pressure surveillance by ___ advised
- to follow up with neurologist for further management of 
___ (versus Multiple Systems Atrophy (MSA)) and 
associated dysautonomia, ataxia
- consider d/c'ing tamsulosin as outpatient in consultation with 
urologist, as could be contributing to issues of hypotension
- combination of rasagiline and venlafaxine puts patient at high 
risk of seratonin syndrome; would recommend discontinuation of 
venlafaxine for now, with re-assessment of these two medications 
by outpatient prescriber
- further medication reconciliation advised in the outpatient 
setting, given difficulty reconciling medications with absolute 
certainty following discussion with patient and call to pharmacy
- CODE: FULL 
 
Medications on Admission:
The Preadmission Medication list ___ be inaccurate and requires 
futher investigation.
1. Amantadine 100 mg PO BID 
2. Bethanechol 25 mg PO TID 
3. Loratadine 10 mg PO DAILY 
4. ClonazePAM 0.5 mg PO BID:PRN anxiety 
5. Docusate Sodium 100 mg PO QHS 
6. Fludrocortisone Acetate 0.2 mg PO DAILY 
7. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
8. LeVETiracetam 500 mg PO BID 
9. Nitrofurantoin Monohyd (MacroBID) 100 mg PO DAILY 
10. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
11. Multivitamins 1 TAB PO DAILY 
12. Pantoprazole 40 mg PO Q12H 
13. rasagiline 1 mg oral daily 
14. Carbidopa-Levodopa (___) 2.5 TAB PO 0700, 1000, 1300, 
___ 
15. Carbidopa-Levodopa (___) 2 TAB PO 1600 
16. Tamsulosin 0.4 mg PO HS 
17. Tasmar (tolcapone) 100 mg oral QID 
18. Venlafaxine XR 225 mg PO DAILY 
19. CeleBREX (celecoxib) 200 mg oral TID 
20. Carbidopa-Levodopa CR (50-200) 1 TAB PO QHS 
21. Sertraline 50 mg PO DAILY 

 
Discharge Medications:
1. Amantadine 100 mg PO BID 
2. Bethanechol 25 mg PO TID 
3. Carbidopa-Levodopa (___) 2 TAB PO 1600 
4. Carbidopa-Levodopa (___) 2.5 TAB PO 0700, 1000, 1300, 
___ 
5. Carbidopa-Levodopa CR (50-200) 1 TAB PO QHS 
6. CeleBREX (celecoxib) 200 mg oral TID 
7. ClonazePAM 0.5 mg PO BID:PRN anxiety 
8. Docusate Sodium 100 mg PO QHS 
9. Fludrocortisone Acetate 0.2 mg PO DAILY 
10. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
11. LeVETiracetam 500 mg PO BID 
12. Loratadine 10 mg PO DAILY 
13. Multivitamins 1 TAB PO DAILY 
14. Nitrofurantoin Monohyd (MacroBID) 100 mg PO DAILY 
15. Pantoprazole 40 mg PO Q12H 
16. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
17. rasagiline 1 mg oral daily 
18. Tamsulosin 0.4 mg PO HS 
19. Tasmar (tolcapone) 100 mg ORAL QID 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
# PRIMARY:
- ___ Diease with Dysautonomia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear ___, 

It was a pleasure taking care of you at the ___ 
___. You came in for an episode of low 
blood pressure and confusion. It seems that your ___ 
Diease has been worsening over the past several months, and we 
think this most likely explains your sypmtoms. You were 
evaluated by ___, with home ___ recommended.
 
Followup Instructions:
___